Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Pituitary Adenoma
 
Major Surgical or Invasive Procedure:
___: ENDOSCOPIC ENDONASAL SUPRASELLAR MASS RESECTION

 
History of Present Illness:
Mr. ___ is a pleasant ___ male who was diagnosed 
with low testosterone and during his work up was found to have a 
growth hormone
secreting pituitary microadenoma. He presented electively for 
resection on ___. 

 
Past Medical History:
Pituitary Adenoma, Low testosterone, Acromegaly
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge: 
Patient was awake, alert and oriented x 3. MAE ___ strength. 
PERRL. He denied any nasal discharge or visual changes. His 
urine output remained stable and had not received DDAVP for 
almost 24 hours. 
 
Pertinent Results:
___  CT HEAD W/O CONTRAST:
  
1. Evolving postsurgical changes including suprasellar 
pneumocephalus and air fluid levels of the sphenoid sinuses in 
the maxillary sinus. 
2. No evidence of acute intracranial hemorrhage. 
  
___ Pituitary MRI:
Expected postoperative changes from transsphenoidal pituitary 
lesion 
resection.  No gross evidence of residual adenoma. 

 
Brief Hospital Course:
Mr. ___ is a pleasant ___ year old male who presents for an 
elective resection of a pituitary adenoma with Dr. ___ 
Dr. ___. The procedure was uncomplicated and the patient 
was extubated and recovered in the PACU. He was given 
perioperative antibiotics. 

Neuro: 
Post operatively the patient remained neurologically stable. 
However, he was experiencing intermittent nasal drainage with 
mild headaches that resolved ___. Later in night the patient 
started to experience nasal drainage with salty taste in the 
back of his throat. The morning of ___ the drainage continued 
and he was placed on bedrest with HOB flat. HOB was increased 
with no drainage noted. The patient ambulated to the bathroom, 
vasovagal and fell on the floor, witnessed. He was not injured, 
+ diaphoresis. Orthostatic vital signs positive and he was given 
an IVF bolus with good effect. On the day of discharge the 
patient denies any nasal discharge or salty taste in the back of 
his throat. 

Endo:
The patient was closely monitored by endocrine, on 
hydrocortisone and frequent labs for DI watch. His 
hydrocortisone started to be weaned. He continued with increased 
urine output requiring dose of DDAVP. His Clomiphine was DC'd on 
___, per request of Endocrine, he will need to be retested in 2 
months to see if cause was due to tumor On ___, he continued 
with increased UO with a low specific gravity and he was started 
on standing DDAVP 0.1 mcg in the morning and 0.2 mcg at night. 
He was given 25mg IV of hydrocortisone on ___ and then off, 
cortisol level ordered for the morning.  He remained on strict 
I&O. On ___ his cortisol level was and he was restarted on 
hydrocortisone. The patient was able to monitor his urine output 
and received DDAVP on a PRN basis. On day of discharge his NA 
was stable at 141. He was discharged with specific instruction 
to monitor urine output and have sodium checked on ___ and 
___. These will be faxed to Dr. ___ in the ___ 
clinic. 

ENT:
Nasal packing removed on ___ with no residual drainage. 
Continued sinus precautions throughout admission. 

 
Medications on Admission:
Clomiphine 3 times per week @ HS-MWF
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth Q6 Disp #*30 Capsule Refills:*0 
2.  Desmopressin Acetate 0.1 mg PO Q12H:PRN Increased urine 
output  
Please call your endocrinologist if you need to take this 
medication  
RX *desmopressin 0.1 mg 1 tablet(s) by mouth twice a day Disp 
#*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Hydrocortisone 20 mg PO Q AM 
RX *hydrocortisone 10 mg ___ tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0 
5.  Hydrocortisone 10 mg PO Q 3PM  
6.  Levothyroxine Sodium 100 mcg PO DAILY 
RX *levothyroxine 100 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Sodium Chloride Nasal ___ SPRY NU TID:PRN Nasal dryness 
RX *sodium chloride [Nasal Spray (sodium chloride)] 0.65 % 1 
Spray Nasal three times a day Disp #*1 Spray Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pituitary Adenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Transphenoidal Excision of Tumor

¨Take your pain medicine as prescribed.
¨Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
¨Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
¨Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
¨Clearance to drive and return to work will be addressed at 
your post-operative office visit.
¨Continue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
¨If you have been discharged on Prednisone, take it daily as 
prescribed.  
¨If you are required to take Prednisone, an oral steroid, make 
sure you are taking a medication to protect your stomach 
(Prilosec, Protonix, or Pepcid), as this medication can cause 
stomach irritation.  Prednisone should also be taken with a 
glass of milk or with a meal. 

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

¨New onset of tremors or seizures.
¨Any confusion or change in mental status. 
¨Any numbness, tingling, weakness in your extremities.
¨Pain or headache that is continually increasing, or not 
relieved by pain medication.
¨Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
¨It is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a “dripping” 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
¨Fever greater than or equal to 101° F.
¨If you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 

You were started on levothyroxine and hydrocortisone while you 
were here. Please continue these until your follow up with 
endocrinology. 

You will be given a prescription for DDAVP (vasopressin) to take 
up to twice daily for increased urine output and thirst. Please 
call your endocrinologist if you need to take this medication. 

 
Followup Instructions:
___